US08471026B2
In a sealed container, 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylic acid (1.00 g, 3.73 mmol) was dissolved in MeOH (40.0 mL) and HCl (3.29 mL, 14.9 mmol, 4.0 M in 1,4-dioxane). The resulting solution was heated at 80° C. for 13 h. The solvent and acid were completely evaporated to yield methyl 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride (1.25 g, 100%). LC-MS: (FA) ES+ 283; 1H NMR (Methanol-d4, 400 MHz) δ8.08 (d, J=8.0 Hz, 1H), 7.92 (d, J=8.3 Hz, 1H), 7.63 (m, 2H), 7.54 (m, 3H), 4.88 (s, 2H), 4.58 (s, 4H), 3.99 (s, 3H), 3.40 (s, 2H).

reactant | 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylic acid | 3.73 mmol, 1.00 g | C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)C(=O)O | C16H16N2O2
reactant | HCl | 14.9 mmol, 4.0 M, 3.29 mL | Cl | ClH
reactant | MeOH | 40.0 mL | CO | CH4O
product | methyl 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride | 1.25 g, 100% | Cl.C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)C(=O)OC | InChI=1S/C17H18N2O2.ClH/c1-21-17(20)16-8-7-14-12-19(10-9-15(14)18-16)11-13-5-3-2-4-6-13;/h2-8H,9-12H2,1H3;1H
